US06417222B1
2-Hydroxy-5-(3-thienyl)benzaldehyde (2c)
0.15 g of tetrakis(triphenylphosphine)palladium catalyst (1.3 10−4 mol) is added to a solution of 5-bromosalicylaldehyde (0.86 g, 0.0043 mol) and of 3-thiopheneboronic acid (0.6 g, 0.0047 mol) in 10 ml of 1,2-dimethoxyethane and 5 ml of methanol. 1.3 g of cesium fluoride are added and the mixture is heated at 80° C. for 20 hours. The reaction mixture is cooled to room temperature and poured into water. The resulting mixture is extracted with dichloromethane and the organic phase is washed with saturated aqueous sodium chloride solution. The organic phase is dried over magnesium sulfate, filtered and concentrated under reduced pressure. The title product is isolated by chromatography on a column of silica (eluent: 88/12 cyclohexane/ethyl acetate. 0.62 g of a pale yellow solid is recovered.

reactant | 5-bromosalicylaldehyde | 0.0043 mol, 0.86 g | BrC1=CC=C(C(C=O)=C1)O | C7H5BrO2
reactant | 3-thiopheneboronic acid | 0.0047 mol, 0.6 g | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | cesium fluoride | 1.3 g | [F-].[Cs+]
reactant | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 10−4 mol, 0.15 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
solvent | methanol | 5 ml | CO | CH4O
product | 2-Hydroxy-5-(3-thienyl)benzaldehyde | OC1=C(C=O)C=C(C=C1)C1=CSC=C1 | C11H8O2S
